US03953461
d. 5-Amino-4-butylamino-6-mercapto-2-methylpyridine-3-carboxylic acid, ethyl ester
6.2 g. of 4-butylamino-6-mercapto-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester (0.02 Mol.) are dissolved in 25 ml. of acetic acid at reflux temperature with stirring. Zinc dust is added cautiously in small portions until the solvent is colorless. The inorganic precipitate is then filtered off, the solvent is removed and the residue is dissolved in 10 ml. of methanol. The product 5-amino-4-butylamino-6-mercapto-2-methylpyridine-3-carboxylic acid, ethyl ester precipitates after the addition of aqueous ammonia, yield 3.6 g. (64%), m.p. 103°-105° (ethyl acetate).

reactant | 4-butylamino-6-mercapto-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester | 0.02 Mol | C(CCC)NC1=C(C(=NC(=C1[N+](=O)[O-])S)C)C(=O)OCC | C13H19N3O4S
catalyst | Zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Amino-4-butylamino-6-mercapto-2-methylpyridine-3-carboxylic acid, ethyl ester | NC=1C(=C(C(=NC1S)C)C(=O)OCC)NCCCC | C13H21N3O2S
